### PR TITLE
Translate word_of/to_bytes

### LINKED ISSUE #1769: Enable cv translation of word_to_bytes/word_of_bytes at arbitrary word sizes
[Written with the help of Claude Code ]
## Problem

Currently, to use `cv_eval` or `cv_trans` with `word_of_bytes` (and indirectly `word_to_bytes`) at a specific word type, you need a computable `set_byte` theorem for that type. The base `set_byte_def` is marked `[nocompute]` because it uses `word_slice_alt`.

HOL4's byteTheory provides `set_byte_32` and `set_byte_64`, but users needing other word sizes must manually prove similar theorems. For example, Verifereum needs 160-bit (Ethereum addresses) and 256-bit (bytes32) words, requiring manual proofs of `set_byte_160` and `set_byte_256`.

### Current approach doesn't scale

Each `set_byte_N` theorem has N/8 cases with explicit hex masks:

```sml
Theorem set_byte_256:
  set_byte a b (w: 256 word) be =
  let i = byte_index a be in
       if i =   0 then w2w b        || w && 0xFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFF00w
  else if i =   8 then w2w b <<   8 || w && 0xFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFF00FFw
  (* ... 30 more cases ... *)
  else                 w2w b << 248 || w && 0x00FFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFFw
```

The proofs use `BBLAST_TAC` (bitblasting), which is slow for larger word sizes. The 256-bit case takes noticeable time, and scaling to 512-bit or larger would be impractical.

### Duplicated effort

Every project needing cv translation for word/byte conversions at non-standard word sizes must:
1. Copy-paste the theorem pattern
2. Generate the appropriate hex masks
3. Wait for slow bitblasting proofs
4. Maintain this code separately

## Desired solution

A general mechanism in byteTheory that enables cv translation of `word_of_bytes` and `word_to_bytes` at any word size (where 8 divides `dimindex`) without requiring manually-proven size-specific theorems.

Possible approaches:

### Option A: General computable set_byte theorem

Prove a theorem that cv_trans can use directly, perhaps leveraging `bit_field_insert`:

```sml
(* set_byte_bit_field_insert already exists: *)
set_byte a b w be = bit_field_insert (byte_index a be + 7) (byte_index a be) b w
```

If `bit_field_insert` can be made cv-translatable (perhaps via a computable characterization), this would solve the problem generically.

### Option B: Alternative word_of_bytes characterization

The existing `word_of_bytes_eq_or` theorem shows that under certain conditions, `word_of_bytes` can be expressed as a fold of bitwise ORs:

```sml
Theorem word_of_bytes_eq_or:
  (w2n ix + LENGTH bs) * 8 <= dimindex (:'a) /\
  EVERYi (\i _. ix + n2w i <> -1w) bs ==>
  word_of_bytes F ix bs =
    FOLDRi (\i b w. (w2w b << ((w2n ix + i) * 8)) || w) (0w : 'a word) bs
```

This avoids `set_byte` entirely. A similar approach for the big-endian case and for `word_to_bytes` could provide cv-translatable definitions that work at any word size.

### Option C: Programmatic generation

If a fully general theorem isn't feasible, provide SML functions that generate the `set_byte_N` theorems programmatically, so users can at least avoid manual proof effort.

## Context

- Discussed on Zulip: https://hol.zulipchat.com/#narrow/channel/486798-.E2.9D.84.EF.B8.8F-HOL4/topic/set_byte.20theorems
- The `[nocompute]` tag on `set_byte_def` is intentional (the definition isn't directly evaluable)
- The `word_of_bytes_word_to_bytes` theorem already works generically, but cv translation of the underlying functions doesn't

## Acceptance criteria

After this issue is resolved:
```sml
val () = cv_auto_trans (INST_TYPE [alpha |-> ":256"] word_of_bytes_def);
val () = cv_auto_trans (INST_TYPE [alpha |-> ":256"] word_to_bytes_def);
```
should work efficiently without requiring a manually-proven `set_byte_256` theorem, and similarly for other word sizes where 8 divides `dimindex`.

### PR DESCRIPTION
**Pull request by xrchz**
Closes #1769

### CODE REVIEW

File: src/num/theories/cv_compute/automation/cv_stdScript.sml [hunk 1]
```diff
@@ -638,3 +638,159 @@ Proof
...
+Proof
+  reverse $ Cases_on`8 ≤ dimindex(:'a)` >- (
+    gvs[GSYM DIV_EQ_0, NOT_LESS_EQUAL]
+    \\ rw[bytes_of_num_def, word_to_bytes_def, word_to_bytes_aux_def])
+  \\ rw[word_to_bytes_def, LIST_EQ_REWRITE, EL_REVERSE, PRE_SUB1]
+  \\ rw[EL_bytes_of_num, EL_word_to_bytes_aux]
+  \\ rw[get_byte_n2w_be]
+QED
+
+Definition word_of_bytes_le_def:
```
Comment (myreen) [inline src/num/theories/cv_compute/automation/cv_stdScript.sml]: Maybe these definitions (`word_of_bytes_le_def, word_of_bytes_be_def, word_to_bytes_le_def, word_to_bytes_be_def`) ought to be in `byteScrtipt.sml` instead of here.

Comment (xrchz) [reply src/num/theories/cv_compute/automation/cv_stdScript.sml]: Yep done.

**Comment by mn200** [comment]
Let the good times roll!
